US07307084B2
15. 2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Ethyl Ester
42 ml Phosphoric acid (85%) and 4.2 g (11.4 mmol) 7-hydroxy-6-(3-hydroxy-3-phenyl-propyl)-2,3-di-methyl-3H-benzoimidazole-5-carboxylic acid ethyl ester were heated at 80° C. for 2 h. After cooling to room temperature the reaction mixture was poured into ice-water and neutralized with 10 N sodium hydroxide solution. The precipitate was filtered off and dried in vacuo at 40° C. to afford 3.4 g (86%) of the title compound as a white solid. m. p. 172°-173° C.

reactant | Phosphoric acid | 42 ml | P(O)(O)(O)=O | H3O4P
reactant | 7-hydroxy-6-(3-hydroxy-3-phenyl-propyl)-2,3-di-methyl-3H-benzoimidazole-5-carboxylic acid ethyl ester | 11.4 mmol, 4.2 g | C(C)OC(=O)C1=CC2=C(N=C(N2C)C)C(=C1CCC(C1=CC=CC=C1)O)O | C21H24N2O4
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
product | 2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Ethyl Ester | 3.4 g, 86% | C(C)OC(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C)C)C1)C1=CC=CC=C1 | C21H22N2O3
